US04613609
1-[4-(4-Chlorophenyl)butyl]-2,3-dimethylimidazolium chloride
To 4.77 g (0.023 mole) 1-chloro-4-(4-chlorobutyl)benzene add 2.23 g (0.023 mole) 1,2-dimethyl-1H-imidazole. Stir the solution for three hours at about 115° C. Follow the progress of the reaction by thin-layer chromatography on silica gel (MeOH: NaCl(1M), 92:8). At the completion of the reaction, cool to obtain an oil. Triturate the oil with petroleum ether until a solid precipitates. Recrystallize the solid from MeOH/ acetone; filter and dry in vacuo to yield the title compound as a monohydrate.

reactant | 1-chloro-4-(4-chlorobutyl)benzene | 0.023 mole, 4.77 g | ClC1=CC=C(C=C1)CCCCCl | C10H12Cl2
reactant | 1,2-dimethyl-1H-imidazole | 0.023 mole, 2.23 g | CN1C(=NC=C1)C | C5H8N2
product | 1-[4-(4-Chlorophenyl)butyl]-2,3-dimethylimidazolium chloride | [Cl-].ClC1=CC=C(C=C1)CCCC[N+]1=C(N(C=C1)C)C | InChI=1S/C15H20ClN2.ClH/c1-13-17(2)11-12-18(13)10-4-3-5-14-6-8-15(16)9-7-14;/h6-9,11-12H,3-5,10H2,1-2H3;1H/q+1;/p-1
